US06174901B1
Procedure for the Preparation of 3-phenyl-2,2-dimethyl-1-aminopropane
A mixture of 2,2-dimethyl-3-phenyl-1-azidopropane (3 gm), 10% Pd-C, methanol (60 mL) and tetrahydrofuran (15 mL) was stirred under 1 atmosphere of hydrogen at rt for 18 h. The mixture was filtered and concentrated to give the title compound as an oil, MS (m/z): 164.1 (M+H)+; C11H17N requir. 163.1.

reactant | 2,2-dimethyl-3-phenyl-1-azidopropane | 3 gm | CC(CN=[N+]=[N-])(CC1=CC=CC=C1)C | C11H15N3
reactant | methanol | 60 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Pd-C | [Pd] | Pd
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-phenyl-2,2-dimethyl-1-aminopropane | C1(=CC=CC=C1)CC(CN)(C)C | C11H17N
